US05488172
da) 75 g of 3,4-dimethoxyphenyl-diphenylphosphine were taken up in 300 ml of methanol. 29.3 ml of 35% H2O2 solution were added dropwise to the suspension while cooling with an ice bath. The clear yellow solution was stirred at room temperature overnight, then treated with 100 ml of sat. Na2SO3 solution and 30 ml of 1N HCl and stirred for a further 1 hour. The resulting suspension was treated with 150 ml of water and the solution was evaporated on a rotary evaporator in order to remove the majority of the methanol. The precipitated yellow crystals were filtered off under suction, taken up in CH2Cl2, the solution was dried over MgSO4, filtered and evaporated. The residue was dissolved in 450 ml of hot ethyl acetate and the solution was treated with 450 ml of hexane. After standing overnight the crystallizate was filtered off under suction, washed with a small amount of hexane and dried at 0.1 mbar. There were obtained 54 g of (3,4-dimethoxyphenyl)diphenylphosphine oxide as a light beige powder. M.p. 154.5°-156° C.

reactant | 3,4-dimethoxyphenyl-diphenylphosphine | 75 g | COC=1C=C(C=CC1OC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19O2P
reactant | H2O2 | 29.3 ml | OO | H2O2
reactant | Na2SO3 | 100 ml | [O-]S(=O)[O-].[Na+].[Na+]
reactant | HCl | 1N, 30 ml | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | (3,4-dimethoxyphenyl)diphenylphosphine oxide | 54 g | COC=1C=C(C=CC1OC)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C20H19O3P
